US09370515B2
Preparation of 3-(benzo[b]thiophen-2-yl)-6-chloro-7,8-dimethylimidazo[1,2-b]pyridazine
To a solution of 6-chloro-7,8-dimethylimidazo[1,2-b]pyridazine (162 mg, 0.892 mmol, 1.0 equiv) in toluene (5.00 mL) was added 2-bromobenzo[b]thiophene (213 mg, 1.16 mmol, 1.3 equiv), potassium carbonate (247 mg, 1.78 mmol, 2.0 equiv), triphenyl phosphine (47 mg, 0.178 mmol, 0.20 equiv) and potassium acetate (20 mg, 0.0892 mmol, 0.1 equiv). The reaction mixture was heated to reflux for 24 h. Purification by column chromatography using 50% ethyl acetate in hexanes elution gave 105 mg of the white solid, 38%.

reactant | 6-chloro-7,8-dimethylimidazo[1,2-b]pyridazine | 0.892 mmol, 162 mg, 1.0 equiv | ClC=1C(=C(C=2N(N1)C=CN2)C)C | C8H8ClN3
reactant | 2-bromobenzo[b]thiophene | 1.16 mmol, 213 mg, 1.3 equiv | BrC1=CC2=C(S1)C=CC=C2 | C8H5BrS
reactant | potassium carbonate | 1.78 mmol, 247 mg, 2.0 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | triphenyl phosphine | 0.178 mmol, 47 mg, 0.20 equiv | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium acetate | 0.0892 mmol, 20 mg, 0.1 equiv | C(C)(=O)[O-].[K+]
solvent | toluene | 5.00 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(benzo[b]thiophen-2-yl)-6-chloro-7,8-dimethylimidazo[1,2-b]pyridazine | 105 mg | S1C2=C(C=C1C1=CN=C3N1N=C(C(=C3C)C)Cl)C=CC=C2 | C16H12ClN3S
